US04318860
The foregoing precursors may subsequently be hydrogenated to methyl pelargonate (methyl nonanoate) and pelargonic acid may then be obtained by acid-catalyzed hydrolysis of methyl pelargonate.

reactant | methyl pelargonate (methyl nonanoate) | CC(C(=O)O)CCCCCCC.C(CCCCCCCC)(=O)OC | 2C10H20O2
reactant | pelargonic acid | C(CCCCCCCC)(=O)O | C9H18O2
product | methyl pelargonate | C(CCCCCCCC)(=O)OC | C10H20O2
